US09447114B2
To a solution of 6-bromo-3-(3-hydroxypropyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (50 mg, 0.15 mmol) in dioxane (2 mL) was added 3,4-dichlorophenylboronic acid (57.3 mg, 0.3 mmol), Pd(PPh3)4 (17.3 mg, 0.015 mmol) and aq. 2M K3PO4 (0.4 mL). The reaction was heated at 85° C. for 1 h, cooled to RT then diluted with EA (20 mL). The organic layer was washed with brine (20 mL) and aq. NH4Cl (20 mL), dried with Na2SO4 and concentrated to a residue which was purified by Prep HPLC to give 6-(3,4-dichlorophenyl)-3-(3-hydroxypropyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (15.0 mg, 27.4% yield) as a white solid. 1H NMR (CDCl3) δ: 7.55-7.48 (m, 2H), 7.24 (d, J=2.1 Hz, 1H), 4.27-4.14 (m, 2H), 3.60-3.50 (m, 5H), 3.27 (t, J=6.5 Hz, 1H), 2.54 (s, 3H), 2.00-1.85 (m, 2H). LCMS: MH+ 399 and TR=3.000 min.

reactant | 6-bromo-3-(3-hydroxypropyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.15 mmol, 50 mg | BrC1=C(C2=C(N(C(N(C2=O)CCCO)=O)C)S1)C | C11H13BrN2O3S
reactant | 3,4-dichlorophenylboronic acid | 0.3 mmol, 57.3 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | K3PO4 | 2M, 0.4 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EA | 20 mL | CC(OCC)=O | C4H8O2
catalyst | Pd(PPh3)4 | 0.015 mmol, 17.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3,4-dichlorophenyl)-3-(3-hydroxypropyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 15.0 mg, 27.4% yield | ClC=1C=C(C=CC1Cl)C1=C(C2=C(N(C(N(C2=O)CCCO)=O)C)S1)C | C17H16Cl2N2O3S
